US07192973B2
3-Phenyl-3-(1-tert-butylcarbonyloxypiperidin-4-yl)propionaldehyde
To a solution of triethylphosphonoacetate (6.2 g, 27 mmol) in THF (100 mL) at 0° C. was added lithium bis(trimethylsilyl)amide (32.5 mL, 1M, 32.5 mmol). The resulting mixture was stirred at 0° C. for 20 min. 1-tert-Butylcarbonyloxy-4-benzoylpiperidine (7 g, 25 mmol) was added and the resulting mixture was stirred at room temperature for 48 h. The mixture was evaporated and the residue dissolved in ethyl acetate (200 mL). The solution was washed with 2M hydrochloric acid (2×100 mL), dried and evaporated giving the sub-titled compound.

reactant | lithium bis(trimethylsilyl)amide | 32.5 mmol, 1M, 32.5 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 1-tert-Butylcarbonyloxy-4-benzoylpiperidine | 25 mmol, 7 g | C(C)(C)(C)C(=O)ON1CCC(CC1)C(C1=CC=CC=C1)=O | C17H23NO3
reactant | THF | 100 mL | C1CCOC1 | C4H8O
product | 3-Phenyl-3-(1-tert-butylcarbonyloxypiperidin-4-yl)propionaldehyde | C1(=CC=CC=C1)C(CC=O)C1CCN(CC1)OC(=O)C(C)(C)C | C19H27NO3
